US04326067
Under the same conditions as Example 13, 2.5 gm (25 mmoles) of 2-ethyl-2-oxazoline, 2.2 gm (25 mmoles) of morpholine and 0.59 mg of zinc acetate are reacted to yield 83 percent N-(2-morpholinylethyl)propionamide.

reactant | 2-ethyl-2-oxazoline | 25 mmoles, 2.5 gm | C(C)C=1OCCN1 | C5H9NO
reactant | morpholine | 25 mmoles, 2.2 gm | N1CCOCC1 | C4H9NO
catalyst | zinc acetate | 0.59 mg | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | N-(2-morpholinylethyl)propionamide | 83 percent | N1(CCOCC1)CCNC(CC)=O | C9H18N2O2
